US07371869B2
Chloro-trimethyl-silane (0.086 ml, 0.68 mmol) was added to 2-((S)-2-{(R)-2-amino-2-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester (120 mg, 0.23 mmol) in tetrahydrofuran (5 mL) containing triethylamine (0.10 ml, 0.73 mmol) at room temperature and stirred for 3 hours. The mixture was diluted with water and extracted with ethyl acetate. The organic extracts were washed with water, brine and dried over magnesium sulfate. Removal of solvents gave 2-((S)-2-{(R)-2-amino-2-[4-((S)-2,3-bis-trimethylsilanyloxy-propoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester as an oil (100 mg, 66%).

reactant | Chloro-trimethyl-silane | 0.68 mmol, 0.086 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-((S)-2-{(R)-2-amino-2-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | 0.23 mmol, 120 mg | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC([C@@H](C1=CC=C(C=C1)OC[C@@H](CO)O)N)=O)=O | C25H28N4O7S
reactant | triethylamine | 0.73 mmol, 0.10 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-((S)-2-{(R)-2-amino-2-[4-((S)-2,3-bis-trimethylsilanyloxy-propoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | 100 mg, 66% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC([C@@H](C1=CC=C(C=C1)OC[C@@H](CO[Si](C)(C)C)O[Si](C)(C)C)N)=O)=O | C31H44N4O7SSi2
